US04727080
Preparation of 2,5-difluoro-4-(pyrrol-1-yl)benzoic acid (step B)
5.2 grams (0.03 mol) of 2,5-difluoro-4-aminobenzoic acid, melting at 250°-3°, are dissolved in 60 ml of glacial acetic acid, and 4 grams (0.03 mol) of dimethoxytetrahydrofuran are added. The mixture is heated at the boil for 10 minutes, 20 ml of water are added and the resulting mixture is left to cool. The precipitate formed is filtered off and washed with water to give 5.3 grams of a solid melting at 196°-8° C.

reactant | 2,5-difluoro-4-aminobenzoic acid | 0.03 mol, 5.2 grams | FC1=C(C(=O)O)C=C(C(=C1)N)F | C7H5F2NO2
reactant | dimethoxytetrahydrofuran | 0.03 mol, 4 grams | COC1(OCCC1)OC | C6H12O3
reactant | water | 20 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2,5-difluoro-4-(pyrrol-1-yl)benzoic acid | 5.3 grams | FC1=C(C(=O)O)C=C(C(=C1)N1C=CC=C1)F | C11H7F2NO2
